US09403846B2
Step 1. Synthesis of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(1-hydroxy-4-methylpent-4-en-1-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C77)
A solution of 4-iodo-2-methylbut-1-ene (942 mg, 4.8 mmol) in diethyl ether (5 mL) was added to a solution of tert-butyllithium (1.7 M in pentane, 5.65 mL, 9.6 mmol) in diethyl ether (15 mL) at −78° C. The reaction mixture was stirred at −78° C. for 35 minutes and then N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P1) (400 mg, 0.96 mmol) in diethyl ether (5 mL) and tetrahydrofuran (4 mL) was added drop-wise over 10 minutes. The mixture was stirred at −78° C. for 15 minutes, then allowed to warm to 0° C. and stirred at 0° C. for 1 hour. The mixture was allowed to warm to room temperature, then stirred at room temperature for 15 minutes. The mixture was diluted with a saturated aqueous solution of ammonium chloride (35 mL) and extracted with ethyl acetate (3×35 mL). The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated to afford a yellow oil. Purification via silica gel chromatography (Gradient: 0% to 90% ethyl acetate in heptane) afforded the product as a white solid. Yield: 108 mg, 23%. LCMS m/z 487.3 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 8.22 (br d, J=6.8 Hz, 2H), 7.31-7.53 (m, 4H), 6.68-6.96 (m, 2H), 4.72-4.73 (m, 1H), 4.17 (d, J=12.5 Hz, 1H), 3.80-3.87 (m, 1H), 3.76 (br s, 1H), 3.61-3.65 (m, 1H), 3.56 (br d, J=8.2 Hz, 1H), 3.13 (br s, 1H), 3.03 (dd, J=12.7, 4.1 Hz, 1H), 2.68 (m, 1H), 2.0-2.29 (m, 4H), 1.74 (s, 3H), 1.59-1.69 (m, 2H).

reactant | 4-iodo-2-methylbut-1-ene | 4.8 mmol, 942 mg | ICCC(=C)C | C5H9I
reactant | tert-butyllithium | 9.6 mmol, 1.7 M, 5.65 mL | C(C)(C)(C)[Li]
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 0.96 mmol, 400 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=O)NC(C2=CC=CC=C2)=O | C21H18F2N2O3S
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | 35 mL | [Cl-].[NH4+]
product | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(1-hydroxy-4-methylpent-4-en-1-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C(CCC(=C)C)O)NC(C2=CC=CC=C2)=O | C26H28F2N2O3S
